US08859580B2
2-(2-Methoxy-benzyl)-3,3-dimethyl-piperidin-4-ol
Sodium borohydride (0.31 g) is added to 2-(2-methoxy-benzyl)-3,3-dimethyl-piperidin-4-one (2.00 g, prepared according to J. Med. Chem. 2002, 45, 3755-3765 from racemic starting material) dissolved in methanol (20 mL). The solution is stirred for 3 h at room temperature and then 1 M sodium hydroxide solution (40 mL) is added. After stirring for 10 min, the mixture is extracted with dichloromethane. The combined organic extracts are washed with water and dried (MgSO4). The solvent is evaporated to give the title product.

reactant | Sodium borohydride | 0.31 g | [BH4-].[Na+]
reactant | 2-(2-methoxy-benzyl)-3,3-dimethyl-piperidin-4-one | 2.00 g | COC1=C(CC2NCCC(C2(C)C)=O)C=CC=C1 | C15H21NO2
reactant | sodium hydroxide | 1 M, 40 mL | [OH-].[Na+]
solvent | methanol | 20 mL | CO | CH4O
product | 2-(2-Methoxy-benzyl)-3,3-dimethyl-piperidin-4-ol | COC1=C(CC2NCCC(C2(C)C)O)C=CC=C1 | C15H23NO2
